US04742068
N,4,4-Trimethyl-1(4H)-pyridinecarboxamide
The title compound was prepared using the method of Example 2b after substituting an equivalent amount of methylurea for (3,4-dimethoxyphenyl)acetamide as a starting material and diluting the solution three-fold with benzene. The crude product was purified by silica gel flash chromatography eluting with a 25% ethyl acetate/hexane solution. The eluate was evaporated in vacuo to yield the title compound as a white solid, mp 129°-131° C.

reactant | methylurea | CNC(=O)N | C2H6N2O
reactant | (3,4-dimethoxyphenyl)acetamide | COC=1C=C(C=CC1OC)CC(=O)N | C10H13NO3
reactant | benzene | C1=CC=CC=C1 | C6H6
product | N,4,4-Trimethyl-1(4H)-pyridinecarboxamide | CNC(=O)N1C=CC(C=C1)(C)C | C9H14N2O
